US08334295B2
Trifluoro-methanesulfonic acid 5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl ester:
To a mixture of 5-isopropyl-2,6-dimethoxy-pyrimidin-4-ol (64 mg, 0.322 mmol) and N-phenyltrifluoromethane sulfonamide (127 mg, 1.1 eq.) in 3 mL of DCM, Cs2CO3 (116 mg, 1.1 eq.) was added. The reaction mixture was stirred at room temperature for 90 minutes. The reaction mixture was concentrated down and purified (silica gel, 0-80% EtOAC/hexane) to give white solid (74 mg, 69%). LC-MS shows 330.9 (M+1).

reactant | 5-isopropyl-2,6-dimethoxy-pyrimidin-4-ol | 0.322 mmol, 64 mg | C(C)(C)C=1C(=NC(=NC1OC)OC)O | C9H14N2O3
reactant | N-phenyltrifluoromethane sulfonamide | 127 mg, 1.1 eq. | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | Cs2CO3 | 116 mg, 1.1 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl ester | 74 mg, 69% | C(C)(C)C=1C(=NC(=NC1OC)OC)OS(=O)(=O)C(F)(F)F | C10H13F3N2O5S
